US04159338
(A) 2-(4-Chlorophenyl)-1-(2-thienyl)ethanone
A mixture of 85.3 g of p-chlorophenylacetic acid and 200 ml of thiophene was stirred at 40° C. as 105 g of trifluoroacetic anhydride was added. The mixture was then refluxed for 4 hrs. It was poured into ice and water and made basic with sodium carbonate. The mixture was extracted with dichloromethane, dried over potassium carbonate and concentrated. The crude yield was 126.4 g. This was recrystallized from 300 ml of methanol to give 103 g, m.p. 98°-99° C.

reactant | p-chlorophenylacetic acid | 85.3 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | thiophene | 200 ml | S1C=CC=C1 | C4H4S
reactant | trifluoroacetic anhydride | 105 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(4-Chlorophenyl)-1-(2-thienyl)ethanone | ClC1=CC=C(C=C1)CC(=O)C=1SC=CC1 | C12H9ClOS
